US08492378B2
6-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-1-(4-methoxyphenyl)-1H-benzimidazole
A mixture of 4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-N2-(4-methoxyphenyl)benzene-1,2-diamine (0.20 g, 0.49 mmol) and formic acid (1.4 mL) was stirred at 100° C. overnight. After cooling, saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=1/1) to give the title compound (0.10 g, yield 49%) as colorless crystals.

reactant | 4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-N2-(4-methoxyphenyl)benzene-1,2-diamine | 0.49 mmol, 0.20 g | FC=1C=C(C=CC1)CCC1=NN=C(O1)C=1C=C(C(=CC1)N)NC1=CC=C(C=C1)OC | C23H21FN4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | formic acid | 1.4 mL | C(=O)O | CH2O2
product | 6-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-1-(4-methoxyphenyl)-1H-benzimidazole | 0.10 g, yield 49% | FC=1C=C(C=CC1)CCC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)OC)C1 | C24H19FN4O2
